US09145407B2
4-[2-(3-Amino-1H-pyrazol-4-yl)-4-(trifluoromethoxy)phenoxy]-5-chloro-2-fluoro-N-1,3-thiazol-4-ylbenzenesulfonamide dihydrochloride
tert-Butyl[(5-chloro-2-fluoro-4-{2-[3-nitro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]-4-(trifluoromethoxy)phenoxy}phenyl)sulfonyl]1,3-thiazol-4-ylcarbamate (Preparation 25, 3.70 g, 4.84 mmol), and saturated aqueous ammonium chloride solution (17 mL) were added to ethanol (62 mL). A white precipitate formed. Iron (0.541 g, 9.68 mmol) was added and the reaction mixture heated at 80° C. After 2 hours the reaction mixture was cooled, filtered and concentrated in vacuo. The residue was slurried in water and the solid collected by filtration. The solid was rinsed with water, then dissolved in ethyl acetate, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was dissolved in a saturated solution of hydrogen chloride in methanol and heated at 50° C. for 2 hours. The solvent was removed in vacuo and the residue dissolved in a minimum amount of methanol. Ethyl acetate was added and the solution stirred for 4 hours while crystals formed. The solid was collected by filtration to afford the title compound as a white powder (1.75 g).

reactant | tert-Butyl[(5-chloro-2-fluoro-4-{2-[3-nitro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]-4-(trifluoromethoxy)phenoxy}phenyl)sulfonyl]1,3-thiazol-4-ylcarbamate | 4.84 mmol, 3.70 g | C(C)(C)(C)OC(N(C=1N=CSC1)S(=O)(=O)C1=C(C=C(C(=C1)Cl)OC1=C(C=C(C=C1)OC(F)(F)F)C=1C(=NN(C1)C1OCCCC1)[N+](=O)[O-])F)=O | C29H26ClF4N5O9S2
reactant | ammonium chloride | 17 mL | [Cl-].[NH4+]
catalyst | Iron | 9.68 mmol, 0.541 g | [Fe] | Fe
solvent | ethanol | 62 mL | C(C)O | C2H6O
product | 4-[2-(3-Amino-1H-pyrazol-4-yl)-4-(trifluoromethoxy)phenoxy]-5-chloro-2-fluoro-N-1,3-thiazol-4-ylbenzenesulfonamide dihydrochloride | 1.75 g | Cl.Cl.NC1=NNC=C1C1=C(OC2=CC(=C(C=C2Cl)S(=O)(=O)NC=2N=CSC2)F)C=CC(=C1)OC(F)(F)F | InChI=1S/C19H12ClF4N5O4S2.2ClH/c20-12-4-16(35(30,31)29-17-7-34-8-26-17)13(21)5-15(12)32-14-2-1-9(33-19(22,23)24)3-10(14)11-6-27-28-18(11)25;;/h1-8,29H,(H3,25,27,28);2*1H
